US03991053
2-Acetyl-3-acetoxymethylquinoxaline 1,4-dioxide (2.0 g., 7.24 mmol.) was dissolved in ice-cold concentrated hydrochloric acid (9 ml.). The reaction mixture was allowed to warm to room temperature and was stirred for 3 hours. Methylene chloride (20 ml.) was added, and the two-phase system was cooled in an ice-bath and made slightly basic (pH 8) with 50% sodium hydroxide solution. The methylene chloride layer was separated and the aqueous layer was extracted with more methylene chloride (two 20-ml. portions). The combined methylene chloride extracts were treated with activated carbon and evaporated under reduced pressure leaving a yellow solid. Recrystallization from methanol gave a 310 mg. (18% yield) of 1-hydroxy-1-methyl-1,3-dihydrofuro[3,4-b]quinoxaline 4,9-dioxide having m.p. 163°-165° C.

reactant | 2-Acetyl-3-acetoxymethylquinoxaline 1,4-dioxide | 7.24 mmol, 2.0 g | C(C)(=O)C1=[N+](C2=CC=CC=C2[N+](=C1COC(C)=O)[O-])[O-] | C13H12N2O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-hydroxy-1-methyl-1,3-dihydrofuro[3,4-b]quinoxaline 4,9-dioxide | 18% yield | OC1(OCC=2C1=[N+](C1=CC=CC=C1[N+]2[O-])[O-])C | C11H10N2O4
